US05703240
4-Tetrazol-1-yl-phenol
To a stirred solution of p-amino-phenol (0.1 mol) in glacial acetic acid (140 ml) at 70°-75° under nitrogen atmosphere was added triethylorthoformate (0.1 mol). The mixture was stirred at this temperature for 4 h, then, sodium azide (0.32 mol) was added portionwise and the reaction was continued for 18 h, cooled to room temperature and poured into ice water (400 ml) and extracted with diethyl ether (3×400 ml) and ethyl acetate (1×400 ml), dried (MgSO4), filtered and concentrated to give a dark brown residue which was triturated with 200 ml of a mixture of ethanol:diethyl ether (1:1 v/v) and filtered to afford the title compound in 30% yield. T.l.c. (ether) Rf 0.65

reactant | p-amino-phenol | 0.1 mol | NC1=CC=C(C=C1)O | C6H7NO
reactant | triethylorthoformate | 0.1 mol | C(C)OC(OCC)OCC | C7H16O3
reactant | sodium azide | 0.32 mol | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 4-Tetrazol-1-yl-phenol | 30% yield | N1(N=NN=C1)C1=CC=C(C=C1)O | C7H6N4O
